US06143762
7-Amino-2-(4-phthalimidobutyl)-1,2,3,4-tetrahydroisoquinoline
A mixture of 5% palladium on carbon paste (3.44 g), 7-nitro-2-(4-phthalimidobutyl)-1,2,3,4-tetrahydroisoquinoline (19.15 g, 0.05 mol), ethanol (791 ml) and water (69 ml) was hydrogenated at 50 psi and 30° C. for 6 days. The reaction mixture was then filtered through Kieselguhr and evaporated in vacuo to give the title compound as an oil (18.04 g, 100%).

reactant | 7-nitro-2-(4-phthalimidobutyl)-1,2,3,4-tetrahydroisoquinoline | 0.05 mol, 19.15 g | [N+](=O)([O-])C1=CC=C2CCN(CC2=C1)CCCCN1C(C=2C(C1=O)=CC=CC2)=O | C21H21N3O4
reactant | ethanol | 791 ml | C(C)O | C2H6O
catalyst | palladium on carbon | [Pd] | Pd
solvent | water | 69 ml | O | H2O
product | 7-Amino-2-(4-phthalimidobutyl)-1,2,3,4-tetrahydroisoquinoline | 18.04 g, 100% | NC1=CC=C2CCN(CC2=C1)CCCCN1C(C=2C(C1=O)=CC=CC2)=O | C21H23N3O2
